US09260408B2
[B] 6-[5-((R)-1-Hydroxymethyl-2-methyl-propylamino)-pyridin-3-yl]-1-methyl-3,4-dihydro-1H-quinolin-2-one
In a 10 mL round-bottomed flask, 6-{5-[(R)-1-(tert-butyl-dimethyl-silanyloxymethyl)-2-methyl-propylamino]-pyridin-3-yl}-1-methyl-3,4-dihydro-1H-quinolin-2-one (60 mg, 132 μmol) was dissolved in THF (1.5 mL) to give a light yellow solution and cooled down to 0° C. TBAF, 1 M sol. in THF (132 μl, 132 μmol) was added dropwise. The solution was stirred at 0° C. for 1.5 h and partitioned between aqueous sat. NaHCO3 solution and AcOEt (3×). The organic layers were collected, dried over Na2SO4 and evaporated in vacuo. The crude material was purified by flash chromatography (silica gel, 20 g, 100% EtOAc followed by 1% MeOH in EtOAc) to give the title compound (22 mg, 49%) as a light yellow foam. MS: 340.2 (M+H+).

reactant | 6-{5-[(R)-1-(tert-butyl-dimethyl-silanyloxymethyl)-2-methyl-propylamino]-pyridin-3-yl}-1-methyl-3,4-dihydro-1H-quinolin-2-one | 132 μmol, 60 mg | C(C)(C)(C)[SiH2]OC([C@@H](C(C)C)NC=1C=C(C=NC1)C=1C=C2CCC(N(C2=CC1)C)=O)(C)C | C26H39N3O2Si
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | THF | 132 μmol, 132 μl | C1CCOC1 | C4H8O
product | 6-[5-((R)-1-Hydroxymethyl-2-methyl-propylamino)-pyridin-3-yl]-1-methyl-3,4-dihydro-1H-quinolin-2-one | 22 mg, 49% | OC[C@@H](C(C)C)NC=1C=C(C=NC1)C=1C=C2CCC(N(C2=CC1)C)=O | C20H25N3O2
